US08729068B2
To a mixture of 19.3 g of methyl 4-(3-{4-[(cyanoacetyl)amino]phenyl}propyl)benzoate, 18 mL of cyclohexanone, and 100 mL of toluene was added dropwise 5.0 mL of morpholine at room temperature. In a reaction device in which a Dean-Stark type dehydration tube was installed, the reaction mixture was stirred for 8 hours under heating and refluxing. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane-chloroform and ethyl acetate-chloroform) to obtain methyl 4-[3-(4-{[cyano(cyclohexylidene)acetyl]amino}phenyl)propyl]benzoate in the form of a reddish brown amorphous substance as a crude product. ESI+: 417

reactant | methyl 4-(3-{4-[(cyanoacetyl)amino]phenyl}propyl)benzoate | 19.3 g | C(#N)CC(=O)NC1=CC=C(C=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C20H20N2O3
reactant | cyclohexanone | 18 mL | C1(CCCCC1)=O | C6H10O
reactant | morpholine | 5.0 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[3-(4-{[cyano(cyclohexylidene)acetyl]amino}phenyl)propyl]benzoate | C(#N)C(C(=O)NC1=CC=C(C=C1)CCCC1=CC=C(C(=O)OC)C=C1)=C1CCCCC1 | C26H28N2O3
